US04552876
1,2-Bis(4-methoxyphenyl)ethane
A mixture of 60 g of desoxyanisoin, 120 g of amalgamated zinc, 200 ml of dioxane, 100 ml of toluene and 200 ml of concentrated hydrochloric acid was refluxed for 24 hours. Another 50 ml of concentrated hydrochloric acid was added after the first 6 hours. The reaction mixture was cooled to room temperature and the organic layer was separated and mixed with 300 ml of ethyl acetate. It was washed with water, dried over anhydrous magensium sulfate and concentrated to give 26 g of white waxy solid.

reactant | desoxyanisoin | 60 g | C1(=CC=C(OC)C=C1)C(=O)CC1=CC=C(OC)C=C1 | C16H16O3
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | hydrochloric acid | 50 ml | Cl | ClH
catalyst | zinc | 120 g | [Zn] | Zn
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1,2-Bis(4-methoxyphenyl)ethane | COC1=CC=C(C=C1)CCC1=CC=C(C=C1)OC | C16H18O2
